US03998808
1-(β-Chloropropionyl) pyrrolidine (16 grams; 0.1 mol), potassium thiocyanate (18 grams; 0.2 mol) and ethanol (100 ml) are charged into a glass reaction flask equipped with a mechanical stirrer and reflux condenser. The reaction mixture is then heated at reflux for a period of about 6 hours. After this time the reaction mixture is cooled and filtered. The filtrate is stripped of solvent and the residue is extracted with benzene. The benzene extract is evaporated under reduced pressure to yield 1-(β-thiocyanopropionyl) pyrrolidine as a residue.

reactant | 1-(β-Chloropropionyl) pyrrolidine | 0.1 mol, 16 grams | ClCCC(=O)N1CCCC1 | C7H12ClNO
reactant | potassium thiocyanate | 0.2 mol, 18 grams | [S-]C#N.[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(β-thiocyanopropionyl) pyrrolidine | S(C#N)CCC(=O)N1CCCC1 | C8H12N2OS
